US07799782B2
Step D: (S)-4-Bromo-2-tert-butoxycarbonylaminobutyric acid methyl ester:
To a cooled (0° C.) solution of (S)-2-tert-butoxycarbonylamino-4-hydroxy-butyric acid methyl ester (28.7 g, 123 mmol) in dichloromethane (500 mL) was added CBr4 (51.0 g, 154 mmol). The mixture was stirred for 5 minutes before the portion-wise addition of triphenylphosphine (48.41 g, 185 mmol). The mixture continued to stir at 0° C. for 1 hour and was then allowed to warm to room temperature. The solvent was removed under reduced pressure and was then diluted with ether (500 mL) and stirred for 30 minutes. The mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was chromatographed eluting with ether/hexanes (1:2) to afford 27.5 g of white solid (76% yield).

reactant | (S)-2-tert-butoxycarbonylamino-4-hydroxy-butyric acid methyl ester | 123 mmol, 28.7 g | COC([C@H](CCO)NC(=O)OC(C)(C)C)=O | C10H19NO5
reactant | CBr4 | 154 mmol, 51.0 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 185 mmol, 48.41 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | (S)-4-Bromo-2-tert-butoxycarbonylaminobutyric acid methyl ester | 27.5 g, 76% yield | COC([C@H](CCBr)NC(=O)OC(C)(C)C)=O | C10H18BrNO4
